US04415496
Benzyl 5-formyl-2(S)-phthalimidopentanoate (4.72 g) was dissolved in 230 ml of ethyl acetate and hydrogenated at 5 psig of hydrogen over 0.82 g of 10% palladium on carbon. After the uptake of 1 equivalent of hydrogen, catalyst was removed by filtration. Removal of solvent afforded 3.64 g of 5-formyl-2(S)-phthalimidopentanoic acid.

reactant | Benzyl 5-formyl-2(S)-phthalimidopentanoate | 4.72 g | C(=O)CCC[C@@H](C(=O)OCC1=CC=CC=C1)N1C(C=2C(C1=O)=CC=CC2)=O | C21H19NO5
solvent | ethyl acetate | 230 ml | C(C)(=O)OCC | C4H8O2
solvent | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.82 g | [Pd] | Pd
solvent | hydrogen | 1 equivalent | [H][H] | H2
product | 5-formyl-2(S)-phthalimidopentanoic acid | 3.64 g | C(=O)CCC[C@@H](C(=O)O)N1C(C=2C(C1=O)=CC=CC2)=O | C14H13NO5
